US08048884B2
Preparation 26: {2-[4-(2-Chloro-pyridin-3-yl)-piperazin-1-yl]-ethyl}-methyl-amine hydrochloride salt
Dissolve {2-[4-(2-chloro-pyridin-3-yl)-piperazin-1-yl]-ethyl}-methyl-carbamic acid tert-butyl ester (4.900 g, 13.807 mmol) in dichloromethane (100 mL). Slowly add 4N HCl in dioxane (20.711 mL, 82.845 mmol). Stir at room temperature for 18 hr. Concentrate and wash the resulting solid with diethyl ether to afford the title preparation (7.500 g, 99% yield). MS ES: m/z=255 [M+H]+.

reactant | {2-[4-(2-chloro-pyridin-3-yl)-piperazin-1-yl]-ethyl}-methyl-carbamic acid tert-butyl ester | 13.807 mmol, 4.900 g | C(C)(C)(C)OC(N(C)CCN1CCN(CC1)C=1C(=NC=CC1)Cl)=O | C17H27ClN4O2
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 82.845 mmol, 20.711 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | {2-[4-(2-Chloro-pyridin-3-yl)-piperazin-1-yl]-ethyl}-methyl-amine hydrochloride salt | 99% yield | Cl.ClC1=NC=CC=C1N1CCN(CC1)CCNC | InChI=1S/C12H19ClN4.ClH/c1-14-5-6-16-7-9-17(10-8-16)11-3-2-4-15-12(11)13;/h2-4,14H,5-10H2,1H3;1H
